US09255110B2
A mixture of (1-{6-[(6-benzyloxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester (0.4 g) and palladium on carbon (10%, 50 mg) in ethanol (20 mL) was stirred under hydrogen atmosphere (balloon pressure) for 2 days. The resulting mixture was filtered over a CELITE™ pad and the filtrate was evaporated under reduced pressure. The crude residue was purified by flash chromatography to afford 0.220 g of (1-{6-[(6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester as a yellow solid.

reactant | (1-{6-[(6-benzyloxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | 0.4 g | C(C)(C)(C)OC(NCC1CCN(CC1)C1=C(C=C2C=CC=NC2=C1)NC(=O)C=1C=NN2C1N=CC(=C2)OCC2=CC=CC=C2)=O | C34H37N7O4
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (1-{6-[(6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | 0.220 g | C(C)(C)(C)OC(NCC1CCN(CC1)C1=C(C=C2C=CC=NC2=C1)NC(=O)C=1C=NN2C1N=CC(=C2)O)=O | C27H31N7O4
